US06384220B2
A solution of 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-propionic acid (100 mg, 0.29 mmol) in dry N,N-dimethylformamide (2 ml,) was treated with O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (110 mg, 0.29 mmol), N,N-diisopropylethylamine (61 μL, 0.35 mmol), and 2-aminothiazole (45 mg, 0.44 mmol). The reaction mixture was stirred at 25° C. under nitrogen for 15 h. The reaction mixture was poured into a mixture of water and ethyl acetate (1:1), and the layers were separated. The organic layer was washed with a 1N aqueous hydrochloric acid solution and a saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 2/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-N-thiazol-2-yl-propionamide (92 mg, 74%) as a white foam: mp 202-204° C.; FAB-HRMS m/e calcd for C27H26N2OS (M+H)+ 427.1844, found 427.1837.

reactant | 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-propionic acid | 0.29 mmol, 100 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C24H24O2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.29 mmol, 110 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.35 mmol, 61 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminothiazole | 0.44 mmol, 45 mg | NC=1SC=CN1 | C3H4N2S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-N-thiazol-2-yl-propionamide | 92 mg, 74% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C27H26N2OS
